US07514422B2
N-Crotyl,N-trifluoroacetyl-2-iodo-4-chlorophenethylamine
A solution of N-trifluoroacetyl-2-iodo-4-chlorophenethylamine (6.2 g, 15.8 mmol) in dimethylformamide (350 mL) was treated with K2CO3 (15.8 g, 114 mmol) and crotyl bromide (6.0 g, 44 mmol) sequentially, the mixture was stirred at 60 C for 16 hours and then cooled to 20 C. The mixture was diluted with EtOAc (350 mL), washed with water (3×300 mL), dried with Na2SO4 and concentrated. Flash chromatography (5-15% EtOAc in hexane) resulted in 2.5 g of a clear oil. MS calculated for C14H14ClF3INO+H: 432, observed: 432.

reactant | N-trifluoroacetyl-2-iodo-4-chlorophenethylamine | 15.8 mmol, 6.2 g | FC(C(=O)NCCC1=C(C=C(C=C1)Cl)I)(F)F | C10H8ClF3INO
reactant | K2CO3 | 114 mmol, 15.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | crotyl bromide | 44 mmol, 6.0 g | C(C=CC)Br | C4H7Br
solvent | dimethylformamide | 350 mL | CN(C=O)C | C3H7NO
solvent | EtOAc | 350 mL | CCOC(=O)C | C4H8O2
product | N-Crotyl,N-trifluoroacetyl-2-iodo-4-chlorophenethylamine | 2.5 g | C(C=CC)N(C(C(F)(F)F)=O)CCC1=C(C=C(C=C1)Cl)I | C14H14ClF3INO
